US04016262
7.3 g. triacetyl-6-chloro-9-(β-D-ribofuranosyl)-purine, 2.1 g. methyl-but-2-enylamine and 2.8 ml. triethylamine were heated under reflux for 2 hours in 100 ml. isopropanol. After cooling, the reaction mixture was mixed with 200 ml. diethyl ether, extracted twice with water and the organic phase evaporated to dryness in a vacuum. The residue was dissolved in 100 ml. 25% methanolic ammonia and then left to stand overnight at ambient temperature. The solution was thereafter evaporated and the residue obtained was recrystallized from water. 4.1 g. (70% of theory) N(6)-methyl-N(6)-but-2-enyl-adenosine were obtained; m.p. 160° - 162° C.

reactant | triacetyl-6-chloro-9-(β-D-ribofuranosyl)-purine | C(C)(=O)N1CN(C2N(CN(C(=C12)Cl)C(C)=O)C(C)=O)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C16H23ClN4O7
reactant | methyl-but-2-enylamine | CNCC=CC | C5H11N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | isopropanol | C(C)(C)O | C3H8O
product | N(6)-methyl-N(6)-but-2-enyl-adenosine | 70% | CN(C=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1)CC=CC | C15H21N5O4
